US06858739B2
[5-(5,6-Difluoro-1H-indol-2-yl)-2-methoxy-phenyl]-(3-hydroxy-4-nitro-benzyl)-amine
3-Hydroxy-4-nitrobenzaldehyde (0.334 g, 2.0 mmol) was added to a stirred mixture of 5-(5,6-difluoro-1H-indol-2-yl)-2-methoxy-phenylamine (0.548 g, 2.0 mmol) in methylene chloride (125 mL), followed by acetic acid (0.2 g). The resulting mixture was stirred at room temperature for 1 hour. Sodium triacetoxyborohydride (0.46 g, 2.2 mmol) was added in one portion, and the resulting homogeneous solution was stirred at room temperature for 3 days. Saturated aqueous sodium bicarbonate solution (100 mL), was added and the mixture was stirred for 2 hours. The mixture was shaken; the organic layer was separated and dried over Na2SO4. The solvent was evaporated to give a red-orange gum. Recrystallization from methanol gave the product (350 mg), mp 170-171° C.

reactant | 3-Hydroxy-4-nitrobenzaldehyde | 2.0 mmol, 0.334 g | OC=1C=C(C=O)C=CC1[N+](=O)[O-] | C7H5NO4
reactant | 5-(5,6-difluoro-1H-indol-2-yl)-2-methoxy-phenylamine | 2.0 mmol, 0.548 g | FC=1C=C2C=C(NC2=CC1F)C=1C=CC(=C(C1)N)OC | C15H12F2N2O
reactant | Sodium triacetoxyborohydride | 2.2 mmol, 0.46 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 125 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 0.2 g | C(C)(=O)O | C2H4O2
product | [5-(5,6-Difluoro-1H-indol-2-yl)-2-methoxy-phenyl]-(3-hydroxy-4-nitro-benzyl)-amine | 350 mg | FC=1C=C2C=C(NC2=CC1F)C=1C=CC(=C(C1)NCC1=CC(=C(C=C1)[N+](=O)[O-])O)OC | C22H17F2N3O4
